US04762826
Dimethyl-4-tert-butylbenzylchloromethylsilane
1.2 g (0.05M) of magnesium shavings are charged into 20 ml of diethyl ether. After the addition of about 1 ml of 4-tert-butylbenzyl chloride, the batch is heated to boiling point and a number of iodine crsytals are added. After the onset of the reaction, the rest of the 4-tert-butylbenzyl chloride (a total of 10 g [0.055M] in 80 ml of diethyl ether) is added dropwise such that the temperature is kept at 25°-30° C. The reaction mixture is stirred further for 2 hours at room temperature. 7.2 g (0.05M) of chloromethyldimethylchlorosilane in 20 ml of diethyl ether are then added dropwise at room temperature, and the mixture is stirred further overnight at room temperature. With ice cooling, 100 ml of a saturated solution of ammonium chloride are added to the reaction mixture, and the organic phase is separated, diluted with ethyl acetoacetate and washed three times with water. The batch is dried over sodium sulfate and filtered, and the filtrate is concentrated under a water jet vacuum. The crude intermediate so obtained is cooled to 0° C. and filtered, affording 11.2 g (88% of theory) of the desired intermediate as filtrate. For further purification, the product can be distilled under a water jet vacuum (boiling point: 149°-150° C./2000 Pa).

reactant | magnesium | 0.05M, 1.2 g | [Mg] | Mg
reactant | 4-tert-butylbenzyl chloride | about 1 ml | C(C)(C)(C)C1=CC=C(CCl)C=C1 | C11H15Cl
reactant | iodine | II | I2
reactant | chloromethyldimethylchlorosilane | 0.05M, 7.2 g | ClC[Si](Cl)(C)C | C3H8Cl2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Dimethyl-4-tert-butylbenzylchloromethylsilane | C[Si](CCl)(CC1=CC=C(C=C1)C(C)(C)C)C | C14H23ClSi
